US04424231
Aluminium chloride (112 g) was slowly added over one hour to a stirred mixture of o-propylanisole (60 g), glutaric anhydride (50.5 g), tetrachloroethane (880 ml) and nitrobenzene (200 ml) maintained between 3°-4°. The mixture was stirred for two days and then poured into dilute hydrochloric acid. The organic phase was steam distilled, and the residue remaining was extracted with ether, which was then extracted with sodium bicarbonate solution. Acidification and crystallisation from ethylacetate-light petroleum (bp 60°-80°) gave 5-oxo-5-(4-methoxy-3-propylphenyl)pentanoic acid (70 g), mp 105°-106°. This acid was refluxed with zinc amalgam (270 g), dioxan (300 ml), toluene (300 ml), and concentrated hydrochloric acid (100 ml) for two days. Extraction with ether and subsequent evaporation gave an oil, which crystallised from cyclohexane to give 5-(4-methoxy-3-propylphenyl)pentanoic acid (36 g), mp 84°. This acid was esterified with methanol and concentrated sulphuric acid, and the methyl ester so obtained (26 g) was added to a stirred suspension of lithium aluminium hydride (3 g) in tetrahydrofuran at 0°. The mixture was refluxed for 3 hours, cooled, treated with water, and extracted with ether, which on evaporation gave the title alcohol (16 g), mp 34.5°-35° .

reactant | Aluminium chloride | 112 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | o-propylanisole | 60 g | C(CC)C1=C(C=CC=C1)OC | C10H14O
reactant | glutaric anhydride | 50.5 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | tetrachloroethane | 880 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
reactant | hydrochloric acid | Cl | ClH
solvent | nitrobenzene | 200 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 5-oxo-5-(4-methoxy-3-propylphenyl)pentanoic acid | 70 g | O=C(CCCC(=O)O)C1=CC(=C(C=C1)OC)CCC | C15H20O4
